* SPICE3 file created from xnor.ext - technology: scmos

m1000 a_6_n288# B Vdd Vdd pfet w=384u l=20u
+ ad=13056p pd=836u as=40680p ps=2780u 
m1001 a_506_n288# A Vdd Vdd pfet w=384u l=20u
+ ad=13056p pd=836u as=0p ps=0u 
m1002 a_886_464# B Vdd Vdd pfet w=54u l=16u
+ ad=3888p pd=468u as=0p ps=0u 
m1003 Vdd A a_886_464# Vdd pfet w=54u l=16u
+ ad=0p pd=0u as=0p ps=0u 
m1004 a_946_n258# a_6_n288# a_886_464# Vdd pfet w=54u l=16u
+ ad=2376p pd=196u as=0p ps=0u 
m1005 a_886_464# a_506_n288# a_946_n258# Vdd pfet w=54u l=16u
+ ad=0p pd=0u as=0p ps=0u 
m1006 Out a_946_n258# Vdd Vdd pfet w=384u l=20u
+ ad=13056p pd=836u as=0p ps=0u 
m1007 a_6_n288# B Gnd Gnd nfet w=128u l=20u
+ ad=4352p pd=324u as=13560p ps=1100u 
m1008 a_506_n288# A Gnd Gnd nfet w=128u l=20u
+ ad=4352p pd=324u as=0p ps=0u 
m1009 a_886_n258# B Gnd Gnd nfet w=18u l=16u
+ ad=792p pd=124u as=0p ps=0u 
m1010 a_946_n258# A a_886_n258# Gnd nfet w=18u l=16u
+ ad=504p pd=128u as=0p ps=0u 
m1011 a_1054_n258# a_6_n288# Gnd Gnd nfet w=18u l=16u
+ ad=792p pd=124u as=0p ps=0u 
m1012 a_946_n258# a_506_n288# a_1054_n258# Gnd nfet w=18u l=16u
+ ad=0p pd=0u as=0p ps=0u 
m1013 Out a_946_n258# Gnd Gnd nfet w=128u l=20u
+ ad=4352p pd=324u as=0p ps=0u 
C0 Vdd a_886_464# 15.4fF
C1 Vdd a_946_n258# 37.9fF
C2 Vdd Out 7.6fF
C3 a_6_n288# a_886_464# 9.4fF
C4 a_506_n288# a_886_464# 9.4fF
C5 Vdd B 51.6fF
C6 A a_886_464# 9.4fF
C7 a_506_n288# a_946_n258# 2.7fF
C8 a_886_464# a_946_n258# 9.4fF
C9 Vdd a_6_n288# 31.8fF
C10 Vdd a_506_n288# 31.8fF
C11 Vdd A 51.6fF
C12 Gnd GND 3232.8fF
C13 Out GND 328.6fF
C14 a_946_n258# GND 804.5fF
C15 a_886_464# GND 201.3fF
C16 a_506_n288# GND 842.4fF
C17 a_6_n288# GND 608.9fF
C18 A GND 479.8fF
C19 B GND 500.6fF
C20 Vdd GND 2477.5fF





* The following two lines are for TRANSIENT analysis

VA     A     0    PULSE(0 2.5 0 10n 1n 8000n 16000n)
VB     B     0    PULSE(0 2.5 0 10n 1n 10000n 20000n)

vo gnd 0 dc 0
vh vdd 0 dc 2.5 


*     TSTEP TSTOP
*     ----- -----
.TRAN 1N  100000N

* TEMPERATURE and OPTIONS SETTING

.OPTIONS TEMP=25 reltol = 1e-6 

*MODELS

.include tsmc_cmos025

.END 
 
 
